* Example of operating transient analysis
I1 0 1 8
R1 1 0 5
R2 1 2 5
L1 2 0 2m ic=8 ; inductors with initial condition
.tran 1u 1.2m
.plot v(L1) i(L1) v(R1) i(R1)